US04985427
Dihydro-1-(3-bromophenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione
A solution of methyl [1-(3-bromophenyl)hydrazino]acetate (2.5 g) and methyl isocyanate (1.46 ml) in acetonitrile (20 ml) was heated under reflux for 2 h. The solvent was removed in vacuo and methanol (20 ml) was added to the residue which was then treated with a solution of sodium methoxide in methanol (30 ml; from 556 mg of sodium). After 1 h at 20° the solution was neutralised with acetic and the solvent was removed in vacuo. The residue was taken into ethyl acetate (250 ml), washed with pH 6 phosphate buffer solution (250 ml), dried and evaporated. Crystallisation of the residue from System B gave the title compound (316 mg). The mother liquor was evaporated, and the resulting solid was triturated with ether to give a further quantity of the title compound (335 mg), m.p. 165°-166°, t.l.c. (ether) Rf 0.41.

reactant | methyl [1-(3-bromophenyl)hydrazino]acetate | 2.5 g | BrC=1C=C(C=CC1)N(N)CC(=O)OC | C9H11BrN2O2
reactant | methyl isocyanate | 1.46 ml | CN=C=O | C2H3NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Dihydro-1-(3-bromophenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione | 316 mg | BrC=1C=C(C=CC1)N1NC(N(C(C1)=O)C)=O | C10H10BrN3O2
